US06476045B2
6-Chloro-2-(4-fluorophenyl)-1H-indole
A mixture of 5-chloro-2-iodoaniline (33.0 g, 0.13 mol) and 1-ethynyl-4-fluorobenzene (26.4 g, 0.22 mol) in diethylamine (400 mL) was degassed with bubbling nitrogen for 20 min., then tetrakis(triphenylphosphine)palladium(0) (2.0 g, 1.7 mmol) and copper (I) iodide (170 mg, 0.9 mmol) were added and the mixture was stirred at room temperature for 12 h. The solvent was evaporated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with water (2×), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in dimethylformamide (250 mL), calcium carbonate (13 g, 0.13 mol) and copper (I) iodide (12.4 g, 0.07 mol) were added and the mixture was stirred at 120° C. for 22 h. The mixture was cooled, filtered and the solvent was evaporated under reduced pressure. Water was added and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with water (2×) and brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with ether/hexane and the solid was collected and dried in vacuo to give the title compound (25.4 g, 85%). 1H NMR (360 MHz, CDCl3) δ 7.59 (2H, m), 7.49 (1H, d, J 8.5 Hz), 7.44 (1H, s), 7.24-6.99 (3H, m), and 6.69 (1H, d, J 1.8 Hz).

reactant | 5-chloro-2-iodoaniline | 0.13 mol, 33.0 g | ClC=1C=CC(=C(N)C1)I | C6H5ClIN
reactant | 1-ethynyl-4-fluorobenzene | 0.22 mol, 26.4 g | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | calcium carbonate | 0.13 mol, 13 g | C([O-])([O-])=O.[Ca+2]
solvent | diethylamine | 400 mL | C(C)NCC | C4H11N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.7 mmol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 0.9 mmol, 170 mg | [Cu]I
catalyst | copper (I) iodide | 0.07 mol, 12.4 g | [Cu]I
product | 6-Chloro-2-(4-fluorophenyl)-1H-indole | 25.4 g, 85% | ClC1=CC=C2C=C(NC2=C1)C1=CC=C(C=C1)F | C14H9ClFN
